US07101899B1
2-phenylmethyloxy-4-methylpyridine
Sodium hydride (60% paraffin dispersion, 5.0 g, 120 mmol) was washed with hexane (5 mL) twice and suspended in tetrahydrofuran (200 mL). To this suspension was added dropwise a solution of benzyl alcohol (14 g, 120 mmol) in tetrahydrofuran (50 mL) at 0° C. and then, the mixture was allowed to warm up to room temperature with stirring for 15 minutes. To this solution was added a solution of 2-bromo-4-methylpyridine (19.5 mL, 110 mmol) in tetrahydrofuran (50 mL) and heated to reflux for 14 hours. To the reaction mixture was added water (200 mL) and extracted with ethyl acetate. The extract was dried and the solvent was distilled off. The crude product was distilled under reduced pressure to obtain 13 g of the title compound (67 mmol, yield 67%).

reactant | Sodium hydride | 120 mmol, 5.0 g | [H-].[Na+]
reactant | benzyl alcohol | 120 mmol, 14 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-bromo-4-methylpyridine | 110 mmol, 19.5 mL | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | water | 200 mL | O | H2O
solvent | hexane | 5 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-phenylmethyloxy-4-methylpyridine | 67 mmol, 13 g, yield 67% | C1(=CC=CC=C1)COC1=NC=CC(=C1)C | C13H13NO
